US05187176
2-Cyano-6-nitro-4-trifluoromethoxyaniline was converted into 4-chloro-3-cyano-5-nitrotrifluoromethoxybenzene using the general method illustrated in Preparation 5 of EP 0 398 499. In such Preparation, 4-amino-3-chloro-5-cyano-trifluoromethylbenzene (5.1 g) in dry acetonitrile (0.25 ml) was added dropwise to a stirred suspension of copper (II) chloride (3.72 g) and tertiary butyl nitrite (12.24 g) in dry acetonitrile (75 ml) whilst the temperature was maintained between 0° and +5° C. After the addition was complete, stirring was continued for a further 2 hours, whereupon the reaction mixture was diluted with dilute aqueous hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, and after drying over anhydrous magnesium sulphate, evaporation of the solvent under reduced pressure gave an orange oil which crystallised on standing. Kugelrohr distillation gave 3-cyano-4,5-dichloro-trifluoromethylbenzene as a pale yellow oil which crystallised on standing.

reactant | 2-Cyano-6-nitro-4-trifluoromethoxyaniline | C(#N)C1=C(N)C(=CC(=C1)OC(F)(F)F)[N+](=O)[O-] | C8H4F3N3O3
reactant | 4-chloro-3-cyano-5-nitrotrifluoromethoxybenzene | ClC1=C(C=C(C=C1[N+](=O)[O-])OC(F)(F)F)C#N | C8H2ClF3N2O3
reactant | 4-amino-3-chloro-5-cyano-trifluoromethylbenzene | 5.1 g | NC1=C(C=C(C=C1C#N)C(F)(F)F)Cl | C8H4ClF3N2
reactant | tertiary butyl nitrite | 12.24 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 0.25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
catalyst | copper (II) chloride | 3.72 g | [Cu](Cl)Cl
product | 3-cyano-4,5-dichloro-trifluoromethylbenzene | C(#N)C=1C=C(C=C(C1Cl)Cl)C(F)(F)F | C8H2Cl2F3N
